US07456164B2
1-{3-[4-(4-Dimethylaminomethyl-tetrahydro-pyran-4-yl)-phenoxy]-propyl}-piperidine-4-carboxylic acid amide
4-(4-Dimethylaminomethyl-tetrahydro-pyran-4-yl)-phenol (500 mg, 2.13 mmol), 1-(3-chloro-propyl)-piperidine-4-carboxylic acid amide (436 mg, 2,13 mmol), DMF (10 ml) and K2CO3 (1.18 g, 8.52 mmol) were reacted together according to general procedure B. The isolated material was subjected to chromatography on silica, eluant 95:4:1 (DCM:MeOH:NH3) to give the title compound as a white solid (175 mg, 20%). 1H NMR (400 MHz, CDCl3) δ7.21 (d, 2H), 6.86 (d, 2H), 5.44 (br s, 1H), 5.25 (br s, 1H), 4.00 (t, 2H), 3.75 (dt, 2H), 3.55 (td, 2H), 3.03-2.93 (m, 2H), 2.51 (t, 2H), 2.40 (s, 2H), 2.22-1.66 (m, 13H), 1.97 (s, 6H).

reactant | 4-(4-Dimethylaminomethyl-tetrahydro-pyran-4-yl)-phenol | 2.13 mmol, 500 mg | CN(C)CC1(CCOCC1)C1=CC=C(C=C1)O | C14H21NO2
reactant | 1-(3-chloro-propyl)-piperidine-4-carboxylic acid amide | 2,13 mmol, 436 mg | ClCCCN1CCC(CC1)C(=O)N | C9H17ClN2O
reactant | K2CO3 | 8.52 mmol, 1.18 g | C(=O)([O-])[O-].[K+].[K+]
reactant | NH3 | N | H3N
solvent | MeOH | CO | CH4O
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 1-{3-[4-(4-Dimethylaminomethyl-tetrahydro-pyran-4-yl)-phenoxy]-propyl}-piperidine-4-carboxylic acid amide | 175 mg, 20% | CN(C)CC1(CCOCC1)C1=CC=C(OCCCN2CCC(CC2)C(=O)N)C=C1 | C23H37N3O3
